Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
persistent cough, SOB
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH COPD, depression presenting with productive cough and
shortness of breath. 

He was treated for pneumonia at ___ earlier this month
(discharged on ___. He says he was in the hospital for around 
6
days and received IV antibiotics during that time. He was
discharged on a 4 day course of oral antibiotics which he took 2
pills in the morning and 2 pills in the evening. 

He states since leaving the hospital, his breathing has 
improved.
His cough has somewhat worsened. His sputum is white colored
mainly. He has not had a fever in awhile and no shaking chills. 

Patient endorses a history of depression after his wife died ___
years ago. He has also been living on the streets and drinking
alcohol daily since then (7 42 ounce beers a day) . His last
drink was immediately prior to showing up in the emergency
department. He states that he is just at a point in his life
where he is just tired of living. It has been rough for him on
the streets. He has never hurt himself before. He has a history
of withdrawal seizures, the most recent one being many years 
ago.

In the ED apparently, he told someone that he would hear a voice
telling him not to kill himself. Upon asking him at the end of
the interview, he was too somnolent to answer appropriately. 

In the ED, 

- Initial vitals were: 98.3 97 116/88 18 95% RA 
 
- Labs were notable for:  
WBC 5.4 H/H ___ Plt 329
BMP wnl with Cr 0.7 and BUN 5
LFTs wnl 
Serum tox positive for ethanol ___ 
Lactate 3.5 -> 2.9 
Influenza negative 

- Studies were notable for:  
CXR: Ill-defined patchy opacity in the right upper lobe
concerning for pneumonia. Follow up radiographs after treatment
are recommended to ensure resolution of this finding. 

- Psych consulted: Attempted to see patient at 0230. Patient was
sedated and unable to participate fully in formal interview.
Patient may not leave the hospital. Continue constant 
observation
as safety assessment on-going.

- Patient was given:  
___ 21:29 IH Ipratropium-Albuterol Neb 1 NEB  
___ 21:29 PO Diazepam - CIWA protocol 10 mg  
___ 23:08 IV Thiamine 200 mg 
___ 23:43 IVF  NS 500 mL 
___ 00:15 IV CefePIME 2g  
___ 02:52 IV Vancomycin 1000 mg   
___ 03:04 PO Diazepam - CIWA protocol 10 mg

On arrival to the floor, he states he has had a rough go. He
states his breathing is better but his cough is worse. He has 
not
had any fevers. 
 
Past Medical History:
-Alcohol use disorder
-COPD 
-Depression 
 
Social History:
___
Family History:
Father with MI
Rest of family history difficult to attain as patient was
somnolent 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS: reviewed in ___ 
GENERAL: somnolent but answers questions upon shaking 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: supple  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: Warm. No rashes.  
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. ___ strength
throughout. 

DISCHARGE PHYSICAL EXAM:  
=======================
PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 920)
    Temp: 97.4 (Tm 98.8), BP: 163/90 (123-163/80-97), HR: 77
(77-110), RR: 18 (___), O2 sat: 95% (93-96), O2 delivery: RA   


GENERAL: Sitting up in bed watching TV, in NAD. 
HEENT: Head is normocephalic. Sclera anicteric.
CARDIAC: Audible S1 and S2. RRR. No r/m/g
LUNG: Appears in no respiratory distress. CTAB posteriorly.
Bibasilar hyperresonance to percussion bilaterally.
ABD: Soft, nontender to palpation, nondistended. No rebound or
guarding. 
EXT: Warm, well perfused, no lower extremity edema. 2+ radial
pulses
NEURO: Alert, oriented, moves all extremities.
SKIN: No rashes noted on extremities or face/neck or 
extremities.

 
Pertinent Results:
ADMISSION LABS:
___ 07:35PM   PLT COUNT-329
___ 07:35PM   NEUTS-46.9 ___ MONOS-8.1 EOS-4.1 
BASOS-0.9 IM ___ AbsNeut-2.54 AbsLymp-2.13 AbsMono-0.44 
AbsEos-0.22 AbsBaso-0.05
___ 07:35PM   WBC-5.4 RBC-4.60 HGB-16.0 HCT-47.4 MCV-103* 
MCH-34.8* MCHC-33.8 RDW-13.4 RDWSD-51.5*
___ 07:35PM   ASA-NEG ___ ACETMNPHN-NEG 
tricyclic-NEG
___ 07:35PM   ALBUMIN-4.6
___ 07:35PM   estGFR-Using this
___ 07:35PM   GLUCOSE-104* UREA N-5* CREAT-0.7 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-24 ANION GAP-16
___ 07:40PM   LACTATE-3.5*

OTHER STUDIES:
___ 06:21PM URINE Streptococcus pneumoniae Antigen 
Detection-PND
___ 11:35PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

MICRO:
___ 6:21 pm URINE      Source: ___ MORE THAN 12 HRS OLD. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 11:50 am SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
__________________________________________________________
___ 5:28 am MRSA SCREEN      Source: Nasal swab. 

   MRSA SCREEN (Pending): 
__________________________________________________________
___ 12:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 7:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING:
___ CXR
FINDINGS: 
Heart size is normal.  The thoracic aorta is tortuous.  
Mediastinal and hilar
contours are otherwise unremarkable.  The pulmonary vasculature 
is normal. 
Lungs are hyperinflatedA.  Ill-defined patchy opacity is seen 
within the right
upper lobe posteriorly.  Minimal scarring versus atelectasis is 
seen in the
left lung base.  No pleural effusion or pneumothorax is seen. 
There are no
acute osseous abnormalities.
 
IMPRESSION: 
Ill-defined patchy opacity in the right upper lobe concerning 
for pneumonia. 
Follow up radiographs after treatment are recommended to ensure 
resolution of
this finding.

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-4.4 RBC-3.78* Hgb-13.2* Hct-40.3 
MCV-107* MCH-34.9* MCHC-32.8 RDW-13.3 RDWSD-53.1* Plt ___
___ 06:10AM BLOOD Glucose-90 UreaN-8 Creat-0.9 Na-143 K-4.6 
Cl-107 HCO3-26 AnGap-10
___ 06:10AM BLOOD Calcium-9.1 Phos-4.4 Mg-1.5*
 
Brief Hospital Course:
This is a ___ year old male with past medical history of COPD, 
depression, recent reported OSH admission for pneumonia, 
admitted ___ with cough secondary to acute COPD 
exacerbation in setting of his inhalers being stolen, course 
complicated by alcohol withdrawal, restarted on bronchodilators 
and treated with benzodiazpines per CIWA, subsequently stable 
and off benzodiazepines for greater than 1 day, able to be 
discharged  

# Acute COPD exacerbation
# Recent bacterial pneumonia
Patient recently discharged from ___ on ___ 
after admission for reported necrotizing pneumonia (per verbal 
report was streptococcus and legionella positive, AFB 
negative). Patient reported improvement to baseline following 
that admission, with subsequent worsening of his symptoms after 
having his home tiotropium and albuterol inhaler stolen at a 
shelter.  He presented with cough and wheezing.  CXR showed a 
RUL consolidation.  In absence of leukocytosis and fever, his 
symptoms were felt to be secondary to COPD exacerbation without 
new acute pnuemonia--consolidation was felt to be explained by 
recent pnuemonia.  He was treated with restarting of 
bronchodilator regimen.  Over subsequent day his symptoms 
resolved without the need for antibiotics or systemic steroids. 
 He was able to ambulate without symptom or issue.  Patient was 
re-prescribed tiotropium and albuterol inhalers, which were 
delivered to his bedside.  

# Orthostatic hypotension: 
Patient reported sensation of lightheadedness at time of 
admission. He had nonfocal neuro exam.  Workup notable for 
orthostatic hypotention.  Felt to be secondary to poor PO 
intake in setting of alcohol binge.  Resolved with IV fluids.  

# Unspecified Depressive disorder, likely alcohol-induced mood 
disorder
In ED patient reported thoughts of hurting self.  He was 
initially placed on 1:1 sitter and admitted to medicine.  Once 
no longer intoxicated he denied any thoughts of hurting self or 
others.  Psychiatry felt safe for discharge. He was seen by 
___ social work, but declined all outpatient supports.  A 
referral was made to elder services for at risk elder.

# Alcohol withdrawal
# Alcohol Use Disorder
Patient with longstanding heavy alcohol use, with prior alcohol 
withdrawal and seizures, presented to ED intoxicated with 
alcohol level of ~300.  Course was complicated by withdrawal 
for which patient was treated with diazapem per CIWA.  Treated 
with folate, multivitamin and high dose thiamine.  He was seen 
by social work, but was not ready to think about quitting.  He 
was monitored off of benzodiazepines for > 24 hours without 
signs of ongoing withdrawal.  

# ___ 
Patient was offered resources for safety or shelter referrals, 
which he declined.  He was referred to Elder Services as an at 
risk elder.

TRANSITIONAL ISSUES:
=================
[ ] Would repeat CXR in ___ weeks to assess for resolution of 
RUL consolidation. 

# CODE: Full code presumed 
# CONTACT: none 

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tab-cap by mouth once a day Disp #*30 Tablet 
Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
RX *albuterol sulfate 90 mcg 2 PUFF IH every four (4) hours Disp 
#*1 Inhaler Refills:*3 
5.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva Respimat] 1.25 mcg/actuation 1 
IH once a day Disp #*1 Inhaler Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD
EtOH use disorder
Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
-You were admitted to the hospital because you felt short of 
breath. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
-Your COPD inhalers were re-started and your breathing improved.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___